US04590203
5-(2-Chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester
3-Methyl-5-(2-chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester, melting point (MeOH/H2O) 47°-50° C. (86%), and 4-Methyl-5-(2-chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester, melting point (petroleum ether) 75° C. (90%).

reactant | 3-Methyl-5-(2-chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1C)OCCCl | C9H11ClO3S
reactant | 4-Methyl-5-(2-chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1)C)OCCCl | C9H11ClO3S
solvent | MeOH H2O | CO.O
product | 5-(2-Chloro-1-ethoxy)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)OCCCl | C8H9ClO3S
